US04622327
Preparation of 1-(chloromethyl)-7,8-diethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline
0.01 mole (3.69 g) of 1-[bis(chloromethyl)-methyl]-6,7-diethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride is suspended in 50 ml of absolute benzene, and 5 ml of triethyl amine are added to the suspension. After standing for 2 hours the reaction mixture is evaporated to dryness. The residue is dissolved in water and extracted with three 50-ml portions of ether. The ethereal extract is dried and evaporated to yield the aimed compound as a crystalline residue. After recrystallization from ether the product melts at 91° to 93° C.

reactant | 1-[bis(chloromethyl)-methyl]-6,7-diethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.01 mole, 3.69 g | Cl.ClCC(C1NCCC2=CC(=C(C=C12)OCC)OCC)CCl
reactant | triethyl amine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(chloromethyl)-7,8-diethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline | Yield: 79% | ClCC1CN2C1C1=CC(=C(C=C1CC2)OCC)OCC | C16H22ClNO2
